US07678803B2
To 3,6,6,-trimethyl-1,5,6,7-tetrahydro-indol-4-one (0.41 g, 1.2 eq) in dimethylacetamide (50 mL) is added slowly sodium hydride (69.5 mg, 1.5 eq) and the resulting mixture is stirred at RT for 0.5 h. Then 7-Fluoro-quinazolin-2,4-diamine (0.342 g, 1 eq) is added and the mixture is stirred at 150° C. for overnight. The reaction mixture is poured into sat'd NaHCO3 aq. solution (300 mL), extracted by EtOAc (3×150 mL). The combined organic layers are dried over Na2SO4, filtered, concentrated. The crude product is purified by flash chromatography to give 1-(2,4-Diamino-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one (0.5 g, 77.6% yield). LC/MS m/z=336 [M+H]+.

reactant | 3,6,6,-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.41 g, 1.2 eq | CC1=CNC=2CC(CC(C12)=O)(C)C | C11H15NO
reactant | sodium hydride | 69.5 mg, 1.5 eq | [H-].[Na+]
reactant | 7-Fluoro-quinazolin-2,4-diamine | 0.342 g, 1 eq | FC1=CC=C2C(=NC(=NC2=C1)N)N | C8H7FN4
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
product | 1-(2,4-Diamino-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.5 g, 77.6% yield | NC1=NC2=CC(=CC=C2C(=N1)N)N1C=C(C=2C(CC(CC12)(C)C)=O)C | C19H21N5O
